US05444080
To a solution of trifluoromethanesulfonic anhydride (163 μL, 0.966 mmol) in methylene chloride (1 mL) held at -75° C. under argon was added 2-chlorobenzyl alcohol (138 mg, 0.966 mmol) and diisopropylethylamine (168 μL, 0.966 mmol) in methylene chloride (2 mL) over one minute. After being stirred for 15 minutes, a solution of ethyl 3-[2-n-butyl-1-t-butoxycarbonyl-1H-imidazol-4-yl]propanoate (285 mg, 0.878 mmol) in methylene chloride (2 mL) was added over a 3-minute interval at -75° C. The reaction mixture was then allowed to warm to room temperature and was stirred for 18 hours. The solvent was evaporated, and this crude product was flash chromatographed over silica gel with a gradient of ethyl acetate in hexane to give 179 mg (58%) of ethyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-propanoate as an oil. TLC on silica gel with 1:1 hexane/ethyl acetate showed a single product with an Rf of 0.41.

reactant | trifluoromethanesulfonic anhydride | 0.966 mmol, 163 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-chlorobenzyl alcohol | 0.966 mmol, 138 mg | ClC1=C(CO)C=CC=C1 | C7H7ClO
reactant | diisopropylethylamine | 0.966 mmol, 168 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 3-[2-n-butyl-1-t-butoxycarbonyl-1H-imidazol-4-yl]propanoate | 0.878 mmol, 285 mg | C(CCC)C=1N(C=C(N1)CCC(=O)OCC)C(=O)OC(C)(C)C | C17H28N2O4
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-propanoate | 179 mg, 58% | C(CCC)C=1N(C(=CN1)CCC(=O)OCC)CC1=C(C=CC=C1)Cl | C19H25ClN2O2
